US09062060B2
Synthesis of 2-[-2-(5,8-Dimethyl-[1,2,4]triazolo[1,5-a]pyrazin-2-yl)-ethyl]-5H-imidazo[2,1-a]isoindole
To a solution of 2-[-2-(5,8-Dimethyl-[1,2,4]triazolo[1,5-a]pyrazin-2-yl)-vinyl]-5H-imidazo[2,1-a]isoindole (139 mg, 0.423 mmol) in methanol (100 mL) was added 10% palladium on carbon (27 mg). A current of hydrogen gas was bubbled through, and the reaction was kept under an atmosphere of hydrogen overnight with stirring. After filtration the organics were evaporated onto silica gel (2 g). Chromatography (gradient elution, A:B 100:0 to 0:100, where A is ethyl acetate and B is 10% MeOH in ethyl acetate) afforded the title compound as a white solid (50.6 mg, 36%). 1H NMR (500 MHz, CDCl3): δ 7.86-7.82; (m, 2H), 7.46-7.42; (m, 2H), 7.33; (t, J=7.5 Hz, 1H), 7.02; (s, 1H), 4.84; (s, 2H), 3.44; (dd, j=8.9, 6.6 Hz, 2H), 3.33; (dd, J=8.9, 6.6 Hz, 2H), 2.91; (s, 3H), 2.73; (s, 3H) LC-MS: m/z=331.0 (MH+), tR=0.74 minutes.

reactant | 2-[-2-(5,8-Dimethyl-[1,2,4]triazolo[1,5-a]pyrazin-2-yl)-vinyl]-5H-imidazo[2,1-a]isoindole | 0.423 mmol, 139 mg | CC1=CN=C(C=2N1N=C(N2)C=CC=2N=C1N(CC3=CC=CC=C13)C2)C | C19H16N6
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 27 mg | [Pd] | Pd
product | 2-[-2-(5,8-Dimethyl-[1,2,4]triazolo[1,5-a]pyrazin-2-yl)-ethyl]-5H-imidazo[2,1-a]isoindole | 50.6 mg, 36% | CC1=CN=C(C=2N1N=C(N2)CCC=2N=C1N(CC3=CC=CC=C13)C2)C | C19H18N6
